US08809534B2
7-chlorothieno[3,2-b]pyridine (19.7 g, 0.116 mol) was taken up in THF (400 mL) and cooled to approximately −70 C. The n-butyllithium (1.6M, 80 mL, 0.128 mol) was added dropwise with stirring under an atmosphere of nitrogen. The solution was stirred at −70 C for 1 hour at which time neat methyl chloroformate was added via dropwise addition. The reaction mixture gradually warmed to room temperature and was stirred for over the weekend. The reaction mixture was treated with 25 mL of methanol and then concentrated to dryness leaving a maroon residue. The crude solid was taken up in dichloromethane and passed through a silica gel column eluting with 1:1 hexane/ethyl acetate. Fractions containing the product were combined and concentrated to give a red solid. Trituration with 9:1 hexane/diethyl ether afforded methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate as a pink solid after filtration. Yield: 14.5 g (55%); MS [M+H]+227.9; 1HNMR (CDCl3) δ: 8.7 (d, 1H), 8.3 (s, 1H), 7.4 (d, 1H) ppm.

reactant | 7-chlorothieno[3,2-b]pyridine | 0.116 mol, 19.7 g | ClC1=C2C(=NC=C1)C=CS2 | C7H4ClNS
reactant | n-butyllithium | 0.128 mol, 1.6M, 80 mL | C(CCC)[Li]
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | methanol | 25 mL | CO | CH4O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane diethyl ether | CCCCCC.C(C)OCC
product | methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate | ClC1=C2C(=NC=C1)C=C(S2)C(=O)OC | C9H6ClNO2S
